US07875645B2
rac-2-[1-(2,3-Difluoro-phenyl)-ethyl]-4,5-dihydro-1H-imidazole was prepared from rac-2-(2,3-difluoro-phenyl)-propionitrile and ethylene diamine in analogy to Example 19 b): off-white solid; MS (EI): 210.1 ((M+H)+.).

reactant | rac-2-(2,3-difluoro-phenyl)-propionitrile | FC1=C(C=CC=C1F)C(C#N)C | C9H7F2N
reactant | ethylene diamine | C(CN)N | C2H8N2
product | rac-2-[1-(2,3-Difluoro-phenyl)-ethyl]-4,5-dihydro-1H-imidazole | FC1=C(C=CC=C1F)C(C)C=1NCCN1 | C11H12F2N2
